US06127354
To a solution of (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid (2.6 g, 7.9 mmol) in dichloromethane (20 ml) was added 1-hydroxy-7-azabenzotriazole (1.1 g, 8.0 mmol) and 1-ethyl-3-dimethylaminopropyl carbodiimide hydrochloride (1.6 g, 8.6 mmol) and the mixture was stirred at 30 min at room temperature. Then 2-benzyl-4-ethylsemicarbazide (1.3 g, 6.6 mmol) and diisopropylethylamine (1.5 ml, 8.6 mmol) in dichloromethane (20 ml) were added and the mixture was stirred overnight. The mixture was washed with saturated sodium bicarbonate (2×50 ml), dried (magnesium sulfate) and concentrated in vacuo. The obtained product was chromatographed on silica (100 g) with petrol ether/ethyl acetate 1:1 to give 3.0 g (90%) of 2-benzyl-1-[(2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphtyl)propionyl]-4-ethylsemicarbazide.

reactant | (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid | 7.9 mmol, 2.6 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 8.0 mmol, 1.1 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-dimethylaminopropyl carbodiimide hydrochloride | 8.6 mmol, 1.6 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-benzyl-4-ethylsemicarbazide | 6.6 mmol, 1.3 g | C(C1=CC=CC=C1)N(N)C(=O)NCC | C10H15N3O
reactant | diisopropylethylamine | 8.6 mmol, 1.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-benzyl-1-[(2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphtyl)propionyl]-4-ethylsemicarbazide | 3.0 g, 90% | C(C1=CC=CC=C1)N(NC([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(=O)OC(C)(C)C)=O)C(=O)NCC | C29H36N4O4
